US05792786
Preparation of Salicylate-Tris
Methyl salicylate (2.3g, 15. 1mmole) was reacted with Tris (14.8 g, 120.8 mmole) in DMF (182 ml) and water (121 ml) at pH 9.0 and 60° C. for 48 h. The formation of the title product (Rt 3.95) from methyl salicylate (Rt 7.66) was monitored by HPLC (System A) until the reaction stopped at 75% of completion. The mixture was then evaporated to dryness under reduced pressure and the sample dissolved in water. The pH was adjusted to 4.5 and the title product purified by preparative HPLC followed by ion exchange chromatography (Amberlite IR63 resin) to give the chromatographically pure salicylate-Tris (3.66, 65% of theoretical).

reactant | Methyl salicylate | 1mmole, 2.3g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | Tris | 120.8 mmole, 14.8 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 182 ml | CN(C)C=O | C3H7NO
solvent | water | 121 ml | O | H2O
product | Salicylate Tris | C(C=1C(O)=CC=CC1)(=O)[O-].C(C(CO)(CO)N)O | InChI=1S/C7H6O3.C4H11NO3/c8-6-4-2-1-3-5(6)7(9)10;5-4(1-6,2-7)3-8/h1-4,8H,(H,9,10);6-8H,1-3,5H2/p-1
